US04259345
A solution of dimethylamine hydrochloride (3.76 g) in 40% aqueous formaldehyde (3.5 ml) was added over 30 minutes to a stirred solution of 1-cyclohexylpyrrole in ethanol (25 ml) and the resulting solution was stirred at room temperature for 18 hours. Evaporation of the solution gave a solid which was dissolved in water. The solution was extracted with ether and then basified to pH 9-10 with 1 N sodium hydroxide solution. The resulting oil was extracted with ether (3×50 ml) and the combined ethereal extracts were washed with water and dried (MgSO4). Evaporation of the ether gave an oil which was chromatographed on silica gel. Elution with chloroform gave 1-cyclohexyl-2-(dimethylaminomethyl)pyrrole (5.0 g) as an oil.

reactant | dimethylamine hydrochloride | 3.76 g | Cl.CNC
reactant | 1-cyclohexylpyrrole | C1(CCCCC1)N1C=CC=C1 | C10H15N
reactant | formaldehyde | 3.5 ml | C=O | CH2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-cyclohexyl-2-(dimethylaminomethyl)pyrrole | 5.0 g | C1(CCCCC1)N1C(=CC=C1)CN(C)C | C13H22N2
